US06518423B1
To a solution of 8 g of paraformaldehyde in methanol (100 ml) were added 10 ml of a 40% solution of methylamine in methanol, 7.7 ml of acetic acid and 10 g of 3,4-dimethylcyclopentanone and the resulting mixture was heated under reflux for 1.5 hours. After distilling off the solvent under reduced pressure, the residue was acidified by adding a dilute aqueous solution of hydrochloric acid and then was extracted with ethyl acetate. The aqueous layer was made basic with a dilute aqueous solution of sodium hydroxide and then extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. Then the obtained residue was distilled under reduced pressure (70-75° C./1 mmHg) to thereby give 2.7 g of crude (6R*,7R*)-3,6,7-trimethyl-3-azabicyclo[3.2.1]octan-8-one as a pale yellow oily substance.

reactant | paraformaldehyde | 8 g | C=O | CH2O
reactant | methylamine | CN | CH5N
reactant | 3,4-dimethylcyclopentanone | 10 g | CC1CC(CC1C)=O | C7H12O
reactant | acetic acid | 7.7 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 100 ml | CO | CH4O
product | (6R*,7R*)-3,6,7-trimethyl-3-azabicyclo[3.2.1]octan-8-one | 2.7 g | CN1CC2[C@@H]([C@H](C(C1)C2=O)C)C | C10H17NO
